US08119686B2
To a solution of 2,6-di-t-butyl-4-mercaptophenol (4.77 g, 20.0 mmol) in isopropyl ether (50 mL) was added levulinic acid (1.16 g, 10.0 mmol) and a catalytic amount of concentrated hydrochloric acid. The mixture was heated under reflux over 10 days. The solvent was distilled off from the reaction mixture, and the resulting residue was purified by a flash column chromatography (filler: manufactured by Kanto Kagaku, K.K., 60Nmesh40-100, developing solvent:n-hexane/ethyl acetate (volume ratio)=5/1 to 2/1) to give 4,4-bis(3,5-di-t-butyl-4-hydroxyphenylthio)pentanoic acid (yield 935 mg and 16%).

reactant | 2,6-di-t-butyl-4-mercaptophenol | 20.0 mmol, 4.77 g | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | levulinic acid | 10.0 mmol, 1.16 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl ether | 50 mL | C(C)(C)OC(C)C | C6H14O
product | 4,4-bis(3,5-di-t-butyl-4-hydroxyphenylthio)pentanoic acid | yield 935 mg, 16% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(CCC(=O)O)(C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C33H50O4S2
